US06372911B1
Preparation of 4(S)-(3,4-difluorophenyl)-5(S)-methyloxazolidin-2-one
Recovery Procedure B. Cesium carbonate (2 g) was added to another portion of the hydroxy carbamate mixture, and after about thirty minutes at room temperature the reaction mixture was diluted with water (50 ml). Sulfuric acid (10 eq.) was then added, and the mixture was refluxed for 30 minutes to obtain a mixture of the title compound plus 1-(3,4-difluorophenyl)-2-hydroxy-propylamine. Isolation by neutralization with NaOH to a pH=8-9, and extraction with MTBE afforded the title compound, which was obtained in 90% ee by evaporative removal of the MTBE.

reactant | Cesium carbonate | 2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | hydroxy carbamate | C(N)(OO)=O | CH3NO3
reactant | Sulfuric acid | 10 eq. | S(O)(O)(=O)=O | H2O4S
reactant | 1-(3,4-difluorophenyl)-2-hydroxy-propylamine | FC=1C=C(C=CC1F)C(C(C)O)N | C9H11F2NO
solvent | water | 50 ml | O | H2O
product | 4(S)-(3,4-difluorophenyl)-5(S)-methyloxazolidin-2-one | FC=1C=C(C=CC1F)[C@@H]1NC(O[C@H]1C)=O | C10H9F2NO2
